US07537765B2
Preparation of 3-O-(3′,3′-dimethylsuccinyl)betulinic acid:
yield 70% (starting with 542 mg of betulinic acid); crystallization from MeOH gave colorless needles; mp 274°-276° C.; [α]D19+23.5° (c=0.71), CHCl3-MeOH [1:1]); Positive FABMS m/z 585 (M+H)+; Negative FABMS m/z 583 (M−H)−; HR-FABMS calcd for C36H57O6 585.4155, found m/z 585.4161; 1H NMR (pyridine-d5): 0.73, 0.92, 0.97, 1.01, 1.05 (each 3H, s; 4-(CH3)2, 8-CH3, 10-CH3, 14-CH3), 1.55 (6H, s, 3′-CH3×2), 1.80 (3H, s, 20-CH3), 2.89, 2.97 (each 1H, d, J=15.5 Hz, H-2′), 3.53 (1H, m, H-19), 4.76 (1H, dd, J=5.0, 11.5 Hz, H-3), 4.78, 4.95 (each 1H, br s, H-30).

reactant | betulinic acid | 542 mg | CC(=C)[C@@H]1CC[C@]2([C@H]1[C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC2)C)C)(C)C)O)C)C(=O)O | C30H48O3
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | 3-O-(3′,3′-dimethylsuccinyl)betulinic acid | yield 70% | CC(=C)[C@@H]1CC[C@]2([C@H]1[C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC2)C)C)(C)C)OC(=O)CC(C)(C)C(=O)O)C)C(=O)O | C36H56O6
